US09145392B2
6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(5-methylpyridin-3-yl)-1H-imidazol-2-yl)piperidin-1-yl)-5-ethylpyrimidin-4-amine (“113”)
The title compound was prepared in an analogous manner as 6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(5-(trifluoromethyl)pyridin-3-yl)-1H-imidazol-2-yl)piperidin-1-yl)-5-ethylpyrimidin-4-amine of using 3-(1-(2-(azetidin-1-yl)ethyl)-2-(piperidin-4-yl)-1H-imidazol-4-yl)-5-methylpyridine instead of 3-(1-(2-(azetidin-1-yl)ethyl)-2-(piperidin-4-yl)-1H-imidazol-4-yl)-5-(trifluoromethyl)pyridine hydrochloride salt. LC-MS: (M+1=447, obsd.=447).

reactant | 6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(5-(trifluoromethyl)pyridin-3-yl)-1H-imidazol-2-yl)piperidin-1-yl)-5-ethylpyrimidin-4-amine | N1(CCC1)CCN1C(=NC(=C1)C=1C=NC=C(C1)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)CC | C25H31F3N8
reactant | 3-(1-(2-(azetidin-1-yl)ethyl)-2-(piperidin-4-yl)-1H-imidazol-4-yl)-5-methylpyridine | N1(CCC1)CCN1C(=NC(=C1)C=1C=NC=C(C1)C)C1CCNCC1 | C19H27N5
product | 6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(5-methylpyridin-3-yl)-1H-imidazol-2-yl)piperidin-1-yl)-5-ethylpyrimidin-4-amine | N1(CCC1)CCN1C(=NC(=C1)C=1C=NC=C(C1)C)C1CCN(CC1)C1=C(C(=NC=N1)N)CC | C25H34N8
